US07407691B2
A reaction mixture comprising 3.0 g of 4-benzyloxy-4′-(trifluoromethoxy)biphenyl, 0.1 g of palladium hydroxide and 30 ml of ethyl acetate was filled with hydrogen gas, and stirred at room temperature for 8 hours. The reaction mixture was filtered, and the solvent of the filtrate was evaporated away. The resulting residue was recrystallized from heptane, and 1.5 g of 4-hydroxy-4′-(trifluoromethoxy)biphenyl was obtained. m.p.: 140-140.5° C.

reactant | 4-benzyloxy-4′-(trifluoromethoxy)biphenyl | 3.0 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C20H15F3O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.1 g | [OH-].[Pd+2].[OH-]
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-hydroxy-4′-(trifluoromethoxy)biphenyl | 1.5 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)OC(F)(F)F | C13H9F3O2
